US08865726B2
To a solution of (S)-4-phenyloxazolidin-2-one (0.737 g, 4.517 mmol) in DMF was added sodium hydride (0.189 g, 4.73 mmol) and the reaction stirred at ambient temperature for 45 minutes. 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine (1.00 g, 4.302 mmol) was added and the reaction stirred at ambient temperature for 3 hours. The reaction mixture was poured into water and the water layer extracted with ether. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude material was purified by normal phase chromatography using 2% EtOAc/DCM as the eluent to yield (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one (1.233 g, 3.433 mmol, 79.80% yield).

reactant | (S)-4-phenyloxazolidin-2-one | 4.517 mmol, 0.737 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
reactant | sodium hydride | 4.73 mmol, 0.189 g | [H-].[Na+]
reactant | 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine | 4.302 mmol, 1.00 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | 3.433 mmol, 1.233 g, 79.80% yield | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C15H11BrN4O2
